US05686610
1-[5-(2-Phthalimidoethanesulfonamido)indole-2-carbonyl]-4-[N-methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine (I)
To a solution of 1-[5-aminoindole-2-carbonyl]-4-[N-methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine (PREPARATION 56, 606 mg) in dry methylene chloride (5 ml) under nitrogen is added pyridine (127 μl, 1.05 equivalents) and 2-phthalimidoethanesulfonyl chloride (400 mg). The mixture is stirred at 20°-25° for 3 days and then diluted with methylene chloride (40 ml) and water (20 ml). The layers are separated and the organic phase is washed with saline (15 ml), dried over sodium sulfate, and concentrated under reduced pressure to give a residue which is then chromatographed on silica gel (230-400 mesh, 85 g, 8 psi), eluting with a gradient of methanol/chloroform (1/99-2.5/97.5). The appropriate fractions (Rf =0.33, TLC, methanol/chloroform, 5/95) are pooled and concentrated to give the title compound, NMR (CDCl3) 10.33, 7.80, 7.76-7.63, 7.35, 7.22, 6.95, 6.85, 6.69, 4.65, 4.51, 4.13, 3.60-3.40, 3.40-2.90, 2.64, 1.94, 1.65 and 1.22 δ.

reactant | 1-[5-aminoindole-2-carbonyl]-4-[N-methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine | 606 mg | NC=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)N(C1=NC=CC=C1NC(C)C)C | C23H30N6O
reactant | pyridine | 127 μl, 1.05 equivalents | N1=CC=CC=C1 | C5H5N
reactant | 2-phthalimidoethanesulfonyl chloride | 400 mg | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 1-[5-(2-Phthalimidoethanesulfonamido)indole-2-carbonyl]-4-[N-methyl-N-(3-(1-methylethylamino)-2-pyridinyl)amino]piperidine | C1(C=2C(C(N1CCS(=O)(=O)NC=1C=C3C=C(NC3=CC1)C(=O)N1CCC(CC1)N(C1=NC=CC=C1NC(C)C)C)=O)=CC=CC2)=O | C33H37N7O5S
